US06818652B2
A solution of 4-[2-(4,4-dimethyl-chroman-7-yl)-heptanoylamino]-benzoic acid methyl ester (0.15 g, 0.35 mmole) in 10 mL of a 4:1 THF/methanol mixture was treated with a solution of 0.1 g of lithium hydroxide monohydrate in 2.5 mL of water and stirred at 40° C. for 6 hours. The mixture was diluted with 10 mL of water and the pH adjusted to 2.0 with 2N HCl solution. The mixture was extracted with three 10 mL portions of ethyl acetate. The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to give a yellow oil. The product was purified by flash chromatography (SiO2, 10% methanol in dichloromethane) to yield 0.11 g of 4-[2-(4,4-dimethyl-chroman-7-yl)-heptanoylamino]-benzoic acid as a white powder. MS (ESI): (M−): 408.

reactant | 4-[2-(4,4-dimethyl-chroman-7-yl)-heptanoylamino]-benzoic acid methyl ester | 0.35 mmole, 0.15 g | COC(C1=CC=C(C=C1)NC(C(CCCCC)C1=CC=C2C(CCOC2=C1)(C)C)=O)=O | C26H33NO4
reactant | lithium hydroxide monohydrate | 0.1 g | O.[OH-].[Li+]
reactant | HCl | 2N | Cl | ClH
solvent | THF methanol | 10 mL | C1CCOC1.CO
solvent | water | 2.5 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 4-[2-(4,4-dimethyl-chroman-7-yl)-heptanoylamino]-benzoic acid | 0.11 g | CC1(CCOC2=CC(=CC=C12)C(C(=O)NC1=CC=C(C(=O)O)C=C1)CCCCC)C | C25H31NO4
